US05859007
2-(3-Benzo[b]thiophen-3-ylmethyl-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To a stirring solution of 130 mg (0.22 mmol) of 2-(3-Benzo[b]thiophen-3-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Example 37, in 5 mL of DMF at 0° C. is added 0.43 mL (0.43 mmol, 2.0 equiv) of a 1.0M solution of NaN(TMS)2 in THF. The resulting solution is stirred 5 min, and 27 μL (0.43 mmol, 2.0 equiv) of methyl iodide is added. The resulting solution is stirred 4 h at RT, warmed to 50° C. for 16 h, and then quenched with 5 mL of H2O. The reaction mixture is poured into 50 mL of Et2O and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification of the material by silica gel MPLC on an Si60 column using hexane/EtOAc 3/1 as eluent followed by lyophilization in acetonitrile/H2O afforded 106 mg of the title compound as a white amorphous solid: 1H NMR (DMSO-d6, 300 MHz) δ7.92 (m, 1H), 7.66-7.05 (m, 16H), 6.81 (d, 1H, J=8.1), 4.85 (m, 1H), 4.31 (s, br, 2H), 3.80 (s, 3H), 2.97 (d, 1H, J=15.2), 2.77 (d, 1H, J=15.2), 1.20 (s, 3H), 1.00 (m, 6H); low resolution MS (FAB)m/e 618 (MH+), 617 (M+), 453; Anal. (C37H35N3O4S) Calcd. C, 71.71; H, 5.74; N, 6.76; S, 5.26 Found C, 71.94; H, 5.71; N, 6.80; S, 5.19.

reactant | 2-(3-Benzo[b]thiophen-3-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.22 mmol, 130 mg | S1C2=C(C(=C1)CC1C(N(C3=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C3)C3=CC=CC=C3)=O)C=CC=C2 | C36H33N3O4S
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 0.43 mmol, 27 μL, 2.0 equiv | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-Benzo[b]thiophen-3-ylmethyl-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 106 mg | S1C2=C(C(=C1)CC1(C(N(C3=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C3)C3=CC=CC=C3)=O)C)C=CC=C2 | C37H35N3O4S
